US09085555B2
(3-Carbamoyl-7-methoxy-indol-1-yl)-acetic acid
was prepared from 7-methoxy-1H-indole-3-carbaldehyde [109021-59-2] in a similar manner as described in Scheme A11 for the preparation of (3-carbamoyl-5-chloro-indol-1-yl)-acetic acid. White solid. MS (LC/MS): 249 [M+H]+, 497 [2M+H]+; tR (HPLC conditions c): 3.05 min.

reactant | 7-methoxy-1H-indole-3-carbaldehyde | COC=1C=CC=C2C(=CNC12)C=O | C10H9NO2
reactant | (3-carbamoyl-5-chloro-indol-1-yl)-acetic acid | C(N)(=O)C1=CN(C2=CC=C(C=C12)Cl)CC(=O)O | C11H9ClN2O3
product | (3-Carbamoyl-7-methoxy-indol-1-yl)-acetic acid | C(N)(=O)C1=CN(C2=C(C=CC=C12)OC)CC(=O)O | C12H12N2O4
